Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Morphine / Latex
 
Attending: ___.
 
Chief Complaint:
Pain-everywhere
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with Sickle Cell Disease and recent admits 
___ for pain crises, and ___ for pain crisis 
and LLE cellulis, also with h/o PE on coumadin and 
transfusion-acquired HCV, now presenting with chief complaint of 
generalized pain and chest pain x 3 days. She was discharged on 
___ with a course of doxycycline 100mg PO bid for 7 days, 
ending ___. She states she completed this 
course, but beginning ___ she developed diffuse body pain c/w 
her pain crises. She continued taking her MSContin 60mg bid as 
well as 8 mg po dilaudid q4-6 hours. On ___, her RN called 
the ER, who advised that she be evaluated, but the patient 
refused ("I'm stubborn"). She continued her oral regimen through 
the weekend. Today, she went shopping at ___ with a 
friend, but ___ finish walking aroud the store due to 
diffuse pain. Her friend called the RN at her home, who called 
an ambulance, and she wa sbrought to the ER. The patient 
endorses nausea and HA as well as fevers over the weekend, 
measured as up to 101. No photophobia/phonophobia or nuchal 
rigidity. Her pain is "everywhere, in every joint," including 
neck, shoulders, elbows, fingers, chest, abdomen, hips, knees, 
and feet, and was a ___. Denies unusual cough, sputum 
production, or difficulty breathing. No dysuria, urinating 
often. BMs are regular with laxatives, but she does not check 
for blood. She is on chronic warfarin as an outpatient, but was 
subtherapeutic recently, and so was started on therapeutic 
enoxaparin injections.  
.  
In the ED, intial vitals were T 98.3, HR 88, BP 113/73, RR 18, 
O2Sat 100% RA. Exam unremarkable excapt for old murmur, + TTP 
LUQ (still has spleen). Labs revealed anemia with HCT 25 (at 
baseline) with MCV 123, many immatur forms een on differential. 
INR was subtherapeutic at 1.6. Venous access problems were 
encountered so a fem line was placed. Patient received dilaudid 
2mg IM x 1, then 2mg IV dilaudid x 2, benadryl 50mg, and 
levofloxacin 750mg po given sunjective fever history. Blood 
cultures were not drawn. Given > 2L IVF. U/A performed and was 
negative. CXR obtained and was clear. Given CP and tachycardia, 
a PE-CT was obtained and showed no PE. Prior to transfer to the 
floor, vitals were T 99.4, HR 83, BP114/67 , RR 13, O2Sat 100% 
RA (removed O2).  
.  
Upon arrival to the floor, patient appears somewhat somnolent 
but is repsonsive and alert. Asks me to "shoot her in the head" 
when asked to rate her pain. Requesting pain meds.  
 
Past Medical History:
1) Sickle cell (HbSS) disease with frequent hospitalizations 
with pain crises.  
2) Pulmonary embolus in ___  
3) ? CVA in ___  
4) s/p acute chest syndrome requiring intubation in ___  
5) Asthma  
6) Borderline personality disorder/PTSD with history of suicidal 
ideation, past psychiatric hospitalizations  
7) Transfusion-related Hepatitis C  
8) s/p cholecystectomy  
9) Hx of seizure disorder-details unknown  
10) Hx of numerous port-a-cath placements  
11) Hx of coag-negative staph and MSSA line infections  
12) Hyperprolactinemia  
 
Social History:
___
Family History:
-mother ___ sickle trait
-father ___ has sickle cell anemia
also fam hx of HTN, HL, DM type II, blindness

 
Physical Exam:
Exam on Admission:
VS: T 98.2 , BP 102/53 HR 80, RR 18, 93% RA O2Sat  
GEN: young ___ female in NAD, occasionally somnolent, 
watching TV, scratching her skin throughout interview  
HEENT: pupils 4cm, PERRL, EOMI, oral mucosa moist  
NECK: Supple, no discrete ___ appreciated, multiple scars from 
venous access of neck bilaterally  
PULM: CTAB  
CARD: RR, S1, nl S2, II/VI sys murmur at ___  
ABD: BS+, soft, diffusely tender worst in LUQ, non-distended, 
non-tympantic.  
EXT: no C/C/E, left lower leg with warm, tender, erythematous 
swelling approximately 6 cm in diameter  
SKIN: diffusely excoriatated; xerosis  
NEURO: Oriented x 3, non-focal  
PSYCH: Mood and affect appropriate, denies current anxiety, 
depression, or suicidal ideation  

 
Pertinent Results:
___ 07:00PM BLOOD WBC-4.9 RBC-2.05* Hgb-8.3* Hct-25.2* 
MCV-123* MCH-40.3* MCHC-32.8 RDW-22.2* Plt ___
___ 06:24AM BLOOD WBC-7.4# RBC-1.82* Hgb-7.4* Hct-22.5* 
MCV-124* MCH-40.7* MCHC-32.9 RDW-21.8* Plt ___
___ 02:10PM BLOOD Hct-23.6*
___ 06:14AM BLOOD WBC-7.7 RBC-1.81* Hgb-7.3* Hct-22.4* 
MCV-124* MCH-40.3* MCHC-32.6 RDW-21.9* Plt ___
___ 06:01AM BLOOD WBC-7.2 RBC-1.68* Hgb-6.9* Hct-20.8* 
MCV-124* MCH-40.8* MCHC-33.1 RDW-21.6* Plt ___
___ 12:47PM BLOOD Hct-23.7*
___ 03:45AM BLOOD WBC-7.5 RBC-1.80* Hgb-7.5* Hct-22.0* 
MCV-122* MCH-41.7* MCHC-34.2 RDW-21.8* Plt ___
___ 07:00PM BLOOD Neuts-22* Bands-0 Lymphs-72* Monos-5 
Eos-1 Baso-0 ___ Myelos-0 NRBC-16*

___ 12:47PM BLOOD ___ PTT-44.4* ___
___ 03:45AM BLOOD ___ PTT-39.8* ___

___ 06:24AM BLOOD Phenyto-1.6*
___ 08:10PM BLOOD Phenyto-11.2
___ 06:01AM BLOOD Phenyto-9.5*

Right Lower Extremity Ultrasound (Wet Read): no DVT, right 
inguinal lymph node enlarged to 3cm 
 
Brief Hospital Course:
Patient is a ___ year old female with a history of sickle cell 
disease, borderline personality disorder, seizure disorder who 
presents with a pain crisis. 

#) Pain Crisis: patient was initially continued on her home long 
acting pain medication, and given dilaudid 2mg IV Q3h for pain, 
aggressive IV fluid hydration, supplemental oxygen and benadryl 
for relief of her itching, however the pain regimen was not 
adequately controlling her pain, so her pain regimen was 
uptitrated to dilaudid ___ Q2h prn pain, after 24 hours, her 
pain was well controlled and she was able to be transitioned to 
oral pain medications, on dilaudid 8mg, which was her outpatient 
dose for breakthrough pain control.  During her hospital course 
her HCT dropped from her baseline of 25, to at its lowest 20.8, 
remained stable with an HCT of 22 at the time of discharge.  
Additionally, on hospital day two the pateint began complaining 
of right inguinal pain, associated with a tender, enlarged mass, 
an ultrasound was done that showed no DVT but did show a 3cm 
right inguinal lymph node.  She will need to have outpatient 
follow up with her PCP to ensure that this enlarged lymph node 
is resolving over the next ___ weeks.  Will email PCP to update 
her about Ms. ___ current hospitalization.  

#) Borderline Personality Disorder/PTSD: patient with chronic 
suicidal ideation, on admission patient not endorsing any 
suicidal ideation, however on hospital day 2, patient began 
endorsing suicidal ideation, psychiatry was consulted and the 
patient was placed on a 1:1 sitter.  At that time psychiatry did 
not want to change her medication regimen, her citalopram 20mg 
and mirtazapine 15mg were both continued, and they felt that she 
was at her chronic level of suicidal ideation, which is a ___.  
Psychiatry feels strongly that an interdisciplinary meeting 
between ___ ER staff, hospital medicine, psychiatry, patient's 
PCP, outpatient psychiatrist to help formulate a plan to deal 
with her repeated admissions would be beneficial, as her 
interrupted outpatient psychiatric care is thought to be 
possibly contributing to repeated medical admissions.  Patient 
will return to ___ Partial DBT program at ___ 
residence.

#) PE: patient was diagnosed with a PE in ___, has been on 
coumadin but found to be subtherapeutic as an outpatient, so she 
was started on lovenox, in the hospital she was continued on her 
lovenox until her INR was in the therapeutic range for 2 days, 
at which time her lovenox was discontinued.  She should have her 
INR checked on ___, she will follow up with her PCP ___ 
___ as well who will help coordinate ___ clinic follow 
up, she should continue her current coumadin dose of 7.5mg daily 
for now. 

#) Seizure Disorder: patient with subtherapeutic phenytoin 
levels on admission, found to be 1.6.  Patient was loaded with 
500mg phenytoin and then continued on her current dosing 
schedule of 200mg BID, however her level drifted below 10, so 
her maintenance dose was increased to 250mg BID.  She should 
have a level checked on ___, and follow up with her PCP who 
can help titrate the dose, and patient should also follow up 
with neurology, as she DNK'd her most recent appointment.  
Patient did not have any seizure activity while in the hospital. 


 
Medications on Admission:
# Hydromorphone 4 mg Tablet Sig: ___ Tablets PO Q3H prn pain.  
# Morphine 60 mg Sustained Release PO Q12H as needed for pain  
# Gabapentin 300 mg PO Q8H  
# Hydroxyurea 500 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily)  
# Mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime)  
# Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily)  
# Albuterol Nebs Q4H (every 4 hours) as needed for wheeze, SOB.  

# Docusate Sodium 100 mg PO BID  
# Senna 8.6 mg Tablet Sig: One (1) Tablet PO once a day.  
# Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily)  
# Phenytoin Sodium Extended 200 mg BID  
# Warfarin 7.5 mg Daily at 4 ___.  
# Polyethylene Glycol 3350 100 % Powder Sig: One (1) 17g PO 
DAILY (Daily) as needed for constipation  
# Camphor-Menthol 0.5-0.5 % Lotion Topical TID prn itching  
 
Discharge Medications:
1. Morphine 30 mg Tablet Sustained Release Sig: Two (2) Tablet 
Sustained Release PO Q12H (every 12 hours).  
2. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours).  
3. Hydroxyurea 500 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
4. Mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
5. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q6H (every 6 hours) as 
needed for wheezing.  
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
8. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
9. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

10. Warfarin 2.5 mg Tablet Sig: Three (3) Tablet PO Once Daily 
at 4 ___: Alternate 5mg and 7.5mg every other day until you get 
your INR checked and follow up with your PCP and ___ 
clinic. .  
11. Polyethylene Glycol 3350 100 % Powder Sig: One (1) capful  
PO DAILY (Daily) as needed for constipation.  
12. Hydromorphone 4 mg Tablet Sig: ___ Tablets PO every six (6) 
hours as needed for pain .
Disp:*15 Tablet(s)* Refills:*0*
13. Outpatient Lab Work
Please check ___ and phenytoin level on ___, send results 
to Dr. ___, fax number ___.
14. Phenytoin Sodium Extended 100 mg Capsule Sig: Two Hundred 
Fifty (250) MG PO twice a day.
Disp:*150 capsules* Refills:*0*
15. Sarna Anti-Itch 0.5-0.5 % Lotion Sig: One (1) application 
Topical QID:PRN.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Sickle Cell Pain Crisis

 
Discharge Condition:
At the time of discharge her pain was well controlled on oral 
pain medications, she was able to ambulate without difficulty, 
tolerating oral intake and considered medically stable for 
discharge. 

 
Discharge Instructions:
You were admitted to ___ with pain, likely secondary to a 
sickle cell crisis.  We think that your sickle cell crisis was 
likely induced by a viral infection that caused you to take in 
less fluids, making you dehydrated and precipitated your sickle 
cell crisis.  We treated your pain  crisis initially with IV 
pain medications, and once the pain was well controlled we 
transitioned you to oral pain medications.  Also, you had 
complained of increased pain in your right groin, for which we 
did an ultrasound that showed no DVT but an enlarge lymph node.  
We also found that the levels of your seizure medications were 
low, so we repleted the levels and increased your dose of 
phenytoin. 

Changes made to your medication regimen: 
1. Phenytoin dose increased to 250mg twice a day 
2. We discontinued your lovenox since your INR was in the 
correct range for your coumadin
3.  We added a short course of dilaudid ___ every 6 hours as 
needed for breakthrough pain 
4. As per ___ clinic your coumadin dose has changed, take 
5mg tonight and alternate with 7.5mg every other day until you 
have gotten your INR checked and follow up with ___ clinic. 
 

Please call your doctor or return to the hospital if you 
experience fever or chills, chest pain, shortness of breath, 
pain similar to your sickle cell crises, are unable to take your 
seizure medications or any other concerning symptoms.
 
Followup Instructions:
___